US06114175
5-Bromosalicylic acid (Aldrich Chemical Company, Milwaukee, Wis.) is converted to the methyl esterimethyl ether by reaction with methyl iodide in the presence of K2CO3 as described above. The 2-methoxy-5-bromobenzoic acid methyl ester thus obtained is reacted with (trimethylsilyl)acetylene (Aldrich Chemical Company, Milwaukee, Wis.) in the presence of palladium. The trimethylsilyl group is removed and two equivalents of the resultant 2-methoxy-5-acetylenylbenzoic acid methyl ester is reacted with 4,4'-dibromobiphenyl (Aldrich Chemical Company, Milwaukee, Wis.) in the presence of palladium as above. The resultant alkynyl analogue of Chrysamine G, 4,4'-bis(3-carboxy-4-methoxyphenylacetylenyl)-biphenyl is prepared by hydrolysis of the ester as described above. This alkynyl analogue is reduced by conventional methods to form the vinyl analogue of Chrysamine G.

reactant | 5-Bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | methyl iodide | CI | CH3I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ether | CCOCC | C4H10O
product | 2-methoxy-5-bromobenzoic acid methyl ester | COC(C1=C(C=CC(=C1)Br)OC)=O | C9H9BrO3
